US05686424
Using the procedure described in example 5, treatment of L-proline-L-isoleucine benzylamide (296 mg, 0.93 mmol), with cesium carbonate (0.61 g, 1.87 mmol), and 2-bromo-2'-acetonaphthone (697 mg, 2.80 mmol, 3.0 eq) in acetonitrile (12 mL), provided 364 mg (80%) of L-isoleucine, N-[1-(2-naphth-2-yl-2-oxoethyl)-L-prolyl] benzylamide as a pale yellow oil.

reactant | L-proline L-isoleucine benzylamide | 0.93 mmol, 296 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | cesium carbonate | 1.87 mmol, 0.61 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-2'-acetonaphthone | 2.80 mmol, 697 mg, 3.0 eq | BrCC(=O)C1=CC2=CC=CC=C2C=C1 | C12H9BrO
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | L-isoleucine, N-[1-(2-naphth-2-yl-2-oxoethyl)-L-prolyl] benzylamide | 364 mg, 80% | C1=C(C=CC2=CC=CC=C12)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C30H35N3O3
